data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5049,5737,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][n+:12]1[c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21](=[O:22])[c-:23]1-[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:23]1([c:24]3[cH:25][cH:26][cH:27][cH:28][cH:29]3)[N:12]([CH3:11])[C:13]2([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:20][C:21]1=[O:22],water,298.15,35.46185305848174,15.009375884649154
64,75,[CH3:10][N-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[N:11]([CH3:10])[NH:12][C:13]2([C:14]#[N:15])[C:16]#[N:17],water,298.15,17.683164028743533,-15.41206115724916
3910,4474,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[O-:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[O:20][N:18]([CH3:19])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,33.3185451445008,5.754051296262975
4026,4611,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([NH+:10]=[CH:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:18](=[O:19])[O:20][CH3:21])[NH:10][CH:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,24.98972398268937,-13.813993472002617
344,374,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[CH:17]([C:18]([CH3:19])=[O:20])[NH:16][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,13.43378574271038,-38.97929101468525
977,1061,[CH3:16][C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[N:18]=[C:17]3[CH3:16],water,298.15,20.08838896950791,-38.562695094665656
2958,3305,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][N-:6][NH+:7]=[N:8][C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[NH:7][N:8]1[C:9](=[O:10])[NH:11][CH3:12],water,298.15,40.46248407507501,-2.911249095498785
1457,1605,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[NH:18][C:19]3([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,16.042062271354872,-36.29258449556331
1299,1424,[CH3:14][C:15](=[O:16])[N:17]=[N+:18]([CH3:19])[N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:17]([C:15]([CH3:14])=[O:16])[N:18]([CH3:19])[N:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,30.174915735890693,-5.4789105186549705
3549,4047,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c-:12]1[o+:13][c:14]([C:15]#[N:16])[o:17][c:18]1=[O:19]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]1([CH3:11])[O:13][C:14]2([C:15]#[N:16])[O:17][C:18]1=[O:19],water,298.15,7.749199511406587,-27.33397550961573
53,64,[CH2-:5][NH+:6]=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15].[CH:1]#[C:2][O:3][CH3:4]>>[CH:1]1=[C:2]([O:3][CH3:4])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[NH:6][CH2:5]1,water,298.15,17.048859455659617,-53.85461408815757
2012,2235,[CH3:17][O:18][C:19](=[O:20])[N-:21][NH+:22]=[C:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[N:21]([C:19]([O:18][CH3:17])=[O:20])[NH:22][C:23]2([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,18.372134518366327,-33.998585760445884
187,204,[CH2:1]=[CH:2][C:3](=[O:4])[O:5][CH3:6].[CH3:7][C:8](=[O:9])[c:10]1[o:11][c:12](=[O:13])[c-:14]([C:15]#[N:16])[n+:17]1[CH3:18]>>[CH2:1]1[CH:2]([C:3](=[O:4])[O:5][CH3:6])[C:14]2([C:15]#[N:16])[C:12](=[O:13])[O:11][C:10]1([C:8]([CH3:7])=[O:9])[N:17]2[CH3:18],water,298.15,24.53363330079105,-0.9549886478095688
